US08470841B2
39f 4-[5((S)-2-Aminopropoxy)pyridin-2-yloxy]phenol
Benzyl {(S)-2-[6-(4-benzyloxyphenoxy)pyridin-3-yloxy]-1-methylethyl}carbamate (118 mg, 0.24 mmol) were hydrogenated in ethanol over 5% of palladium on carbon at 5 bar hydrogen pressure. The catalyst was filtered off and the filtrate was concentrated: Yield: 43 mg (68%), M+H+: 261.13.

reactant | Benzyl {(S)-2-[6-(4-benzyloxyphenoxy)pyridin-3-yloxy]-1-methylethyl}carbamate | 0.24 mmol, 118 mg | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC=C(C=N2)OC[C@H](C)NC(OCC2=CC=CC=C2)=O)C=C1 | C29H28N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-[5((S)-2-Aminopropoxy)pyridin-2-yloxy]phenol | N[C@H](COC=1C=CC(=NC1)OC1=CC=C(C=C1)O)C | C14H16N2O3
